US07049444B2
3-Hexyl-6-[3-(1H-imidazol-5-yl)phenyl]-6-methyl-3-azabicyclo[3.1.0]hexane
To a solution of 3-hexyl-6-[3-(1H-imidazol-5-yl)phenyl]-6-methyl-3-azabicyclo[3.1.0]hexan-2-one (Preparation 75, 21 mg, 62.3 μmol) in tetrahydrofuran (1.5 ml) at room temperature was added lithium aluminium hydride (1.0 M in tetrahydrofuran, 0.12 ml, 0.12 mmol) over 2 min. The reaction mixture was stirred at room temperature for 30 min and then heated under reflux for 2 h before cooling to room temperature. Aqueous sodium hydroxide solution (1 M, a few drops) and excess ethyl acetate were added followed by solid sodium hydrogen carbonate. The reaction mixture was stirred rapidly for 1 h before filtering. The mother liquor was concentrated in vacuo and the crude residue was chromatographed on silica gel eluting with ethyl acetate and then ethyl acetate:methanol (80:20) to give the product as a colourless semi-solid (15 mg, 75%).

reactant | 3-hexyl-6-[3-(1H-imidazol-5-yl)phenyl]-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 62.3 μmol, 21 mg | C(CCCCC)N1C(C2C(C2C1)(C)C1=CC(=CC=C1)C1=CN=CN1)=O | C21H27N3O
reactant | lithium aluminium hydride | 0.12 mmol, 1.0 M, 0.12 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
catalyst | sodium hydroxide | 1 M, a few drops | [OH-].[Na+]
product | 3-Hexyl-6-[3-(1H-imidazol-5-yl)phenyl]-6-methyl-3-azabicyclo[3.1.0]hexane | 15 mg, 75% | C(CCCCC)N1CC2C(C2C1)(C)C1=CC(=CC=C1)C1=CN=CN1 | C21H29N3
